US03952001
In an analogous manner to that described in Example 20, 3-ethylsulphonyl-1,2,4-triazole was reacted with dipropylcarbamoyl chloride to give 1-dipropylcarbamoyl-3-ethylsulphonyl-1,2,4-triazole, m.p. 44° - 45°C. Elemental analysis satisfactory.

reactant | 3-ethylsulphonyl-1,2,4-triazole | C(C)S(=O)(=O)C1=NNC=N1 | C4H7N3O2S
reactant | dipropylcarbamoyl chloride | C(CC)N(C(=O)Cl)CCC | C7H14ClNO
product | 1-dipropylcarbamoyl-3-ethylsulphonyl-1,2,4-triazole | C(CC)N(C(=O)N1N=C(N=C1)S(=O)(=O)CC)CCC | C11H20N4O3S
